US04710510
7,7-Dimethyl-2-(2-methoxy-4-methylsulphonylaminophenyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
1.26 g. (11 mmol) methanesulphonyl chloride were slowly added dropwise to a solution of 3.6 g. (10 mmol) 7,7-dimethyl-2-(2-methoxy-4-aminophenyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one hydrochloride and 2.2 g. (22 mmol) triethylamine in 50 ml. dimethylformamide. After stirring for 2 hours at 25° C., the dimethylformamide was distilled off under a high vacuum. The residue was worked up with water and filtered off with suction. Subsequently, it was recrystallised from ethanol to give 2.9 g. (72.5% of theory) of the title compound; m.p. >300° C.

reactant | methanesulphonyl chloride | 11 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | 7,7-dimethyl-2-(2-methoxy-4-aminophenyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one hydrochloride | 10 mmol | Cl.CC1(C(NC2=CC3=C(N=C(N3)C3=C(C=C(C=C3)N)OC)C=C21)=O)C
reactant | triethylamine | 22 mmol | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7,7-Dimethyl-2-(2-methoxy-4-methylsulphonylaminophenyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC1(C(NC2=CC3=C(N=C(N3)C3=C(C=C(C=C3)NS(=O)(=O)C)OC)C=C21)=O)C | C19H20N4O4S
